US05204346
A mixture of 3-[2-(2-phthalimidoethyl)-3-oxo-2,3-dihydropyridazin-6-yl]-2-phenylpyrazolo[1,5-a]pyridine (2.2 g), hydrazine monohydrate (2 ml), and ethanol (100 ml) was stirred for 1 hour under reflux. After being cooled to room temperature, the reaction mixture was concentrated, and the residue was partitioned between chloroform and water. The organic layer was separated, and extracted with 10% hydrochloric acid. The aqueous layer was washed twice with chloroform, neutralized with sodium hydroxide, and extracted three times with chloroform. The combined organic layers were washed with water and sodium chloride aqueous solution, dried over anhydrous magnesium sulfate, and concentrated to give 3-[2-(2-aminoethyl)-3-oxo-2,3-dihydropyridazin-6-yl]-2-phenylpyrazolo[1,5-a]pyridine (1.5 g). An analytical sample was prepared by recrystallization from ethyl acetate.

reactant | 3-[2-(2-phthalimidoethyl)-3-oxo-2,3-dihydropyridazin-6-yl]-2-phenylpyrazolo[1,5-a]pyridine | 2.2 g | C1(C=2C(C(N1CCN1N=C(C=CC1=O)C=1C(=NN3C1C=CC=C3)C3=CC=CC=C3)=O)=CC=CC2)=O | C27H19N5O3
reactant | hydrazine monohydrate | 2 ml | O.NN
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 3-[2-(2-aminoethyl)-3-oxo-2,3-dihydropyridazin-6-yl]-2-phenylpyrazolo[1,5-a]pyridine | 1.5 g | NCCN1N=C(C=CC1=O)C=1C(=NN2C1C=CC=C2)C2=CC=CC=C2 | C19H17N5O
